### PR TITLE
[Merged by Bors] - feat: normal function is strictly monotone and continuous

### PR DESCRIPTION
**Pull request by vihdzp**
This PR shows the equivalence between the order-theoretic `Order.IsNormal` predicate, and the more standard topological characterization in the literature. It also gets rid of one of the last remaining uses of `Ordinal.bsup`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/IsNormal.lean [hunk 1]
```diff
@@ -158,6 +158,19 @@ theorem map_iSup {ι} [Nonempty ι] {g : ι → α} (hf : IsNormal f) (hg : BddA
   ext
   simp
 
+theorem preimage_Iic (hf : IsNormal f) {x : β}
+    (h₁ : (f ⁻¹' Iic x).Nonempty) (h₂ : BddAbove (f ⁻¹' Iic x)) :
+    f ⁻¹' Iic x = Iic (sSup (f ⁻¹' Iic x)) := by
```
Comment (b-mehta) [inline Mathlib/Order/IsNormal.lean:164]: The statement `s.Nonempty`, `BddAbove s` implies `Iic (sSup s) = s` seems more general, isn't that true for lower sets? So I think we could show `f ⁻¹' Iic x` is a lower set, and then use a more general result?

Comment (vihdzp) [reply Mathlib/Order/IsNormal.lean:164]: That isn't true, a counterexample is `Iio ω`.

Comment (vihdzp) [reply Mathlib/Order/IsNormal.lean:164]: What this theorem attempts to encapsulate is that the preimage of a closed lower set is a closed lower set.

Comment (b-mehta) [reply Mathlib/Order/IsNormal.lean:164]: Oh oops, I probably meant closed too! It's just slightly weird to me that `f ⁻¹' Iic x` appears, it looks like it really wants to be generalised

File: Mathlib/Topology/Order/IsNormal.lean [hunk 2]
```diff
@@ -0,0 +1,52 @@
...
+  [LinearOrder β] [WellFoundedLT β] [TopologicalSpace β] [OrderTopology β]
+
+attribute [local instance]
+  WellFoundedLT.toOrderBot WellFoundedLT.conditionallyCompleteLinearOrderBot in
+theorem IsNormal.continuous {f : α → β} (hf : IsNormal f) : Continuous f := by
+  rw [OrderTopology.continuous_iff]
+  refine fun b ↦ ⟨?_, ((isLowerSet_Iio b).preimage hf.strictMono.monotone).isOpen⟩
+  rw [← isClosed_compl_iff, ← Set.preimage_compl, Set.compl_Ioi]
+  obtain ha | ⟨a, ha⟩ := ((isLowerSet_Iic b).preimage hf.strictMono.monotone).eq_univ_or_Iio
+  · exact ha ▸ isClosed_univ
```
Comment (b-mehta) [inline Mathlib/Topology/Order/IsNormal.lean:31]:
```suggestion
  obtain ha | ⟨a, rfl⟩ := ((isLowerSet_Iic b).preimage hf.strictMono.monotone).eq_univ_or_Iio
  · exact isClosed_univ
```
and similar below, I guess

File: Mathlib/Order/IsNormal.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/IsNormal.lean:164]: I think `IsNormal.continuous` is the generalization ;)

File: Mathlib/Topology/Order/IsNormal.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Topology/Order/IsNormal.lean:31]: I don't think this works, since `Iic b` isn't a single variable.

File: Mathlib/Topology/Order/IsNormal.lean [hunk 3]
```diff
@@ -0,0 +1,52 @@
...
+  · obtain h | h := (f ⁻¹' Iic b).eq_empty_or_nonempty
+    · exact h ▸ isClosed_empty
+    · have : Nonempty α := ⟨a⟩
+      have : Nonempty β := ⟨b⟩
+      rw [hf.preimage_Iic h (ha ▸ bddAbove_Iio)]
+      exact isClosed_Iic
+
+/-- A normal function between well-orders is equivalent to a strictly monotonic,
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/IsNormal.lean]:
```suggestion
/-- A normal function between well-orders is equivalent to a strictly monotone,
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+
